* source STABILIZATOR
X_U1         VIN N000361 1N4148 
X_U2         N000361 N00566 1N4148 
Q_Q1         N00573 N00566 N00562 QBC856B 
Q_Q2         N00749 N00566 N00603 QBC856B 
Q_Q4         N00749 N05027 VOUT QBC846B 
Q_Q5         N00749 N00805 N00579 QBC846B 
Q_Q6         N00749 N00660 0 QBC846B 
D_D1         0 N00579 BZX84-C6V2 
R_R1         N00903 VOUT  510 TC=0,0 
R_R2         N00907 N00903  330 TC=0,0 
R_R3         0 N00907  10 TC=0,0 
R_R9         N14815 N00866  4.7k TC=0,0 
R_R36         N003761 VOUT  3.3k TC=0,0 
R_R8         N05204 N05027  1 TC=0,0 
R_R12         N00603 VIN  150 TC=0,0 
R_R13         N00562 VIN  100 TC=0,0 
R_R14         N00660 N00579  10k TC=0,0 
R_R15         N00783 N00660  1k TC=0,0 
R_R16         N20567 N00566  2.7k TC=0,0 
R_R17         0 N20567  510 TC=0,0 
R_R20         VOUT N05027  10 TC=0,0 
R_R21         VOUT N05204  1 TC=0,0 
R_R22         0 N11106  1k TC=0,0 
R_R28         N11106 N11110  100 TC=0,0 
R_R29         N11596 N11368  2.7k TC=0,0 
R_R30         0 N11596  2.7k TC=0,0 
X_D3         N11368 VIN LED PARAMS: IS=2.0601e-26 RS=20  BV=5 IBV=5e-6         
X_D4         N11110 VOUT LED PARAMS: IS=2.0601e-26 RS=20  BV=5 IBV=5e-6        
+  
R_R32         N00579 N00573  680 TC=0,0 
R_R33         N05027 N259560  1 TC=0,0 
Q_Q8         VIN N00749 N260860 QBC846B 
R_R35         N05027 N260860  1 TC=0,0 
Q_Q3         VIN N00749 N259560 QBC846B 
R_R34         N05027 N260280  1 TC=0,0 
Q_Q7         VIN N00749 N260280 QBC846B 
R_R7         N264191 N003761  220 TC=0,0 
R_R10         0 N14815  3.3k TC=0,0 
R_R31         0 N00783  10 TC=0,0 
X_R6         N264191 N00805 N00866 POT PARAMS: SET=0.5 VALUE=10K
